US08865713B2
Step B: 1-(4-Bromo-5,6-dichloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
To a mixture of 1-[4-bromo-5,6-dichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.132 g, 0.27 mmol) and EtOH (2 mL) was added 4M HCl in dioxane (2 mL). The mixture was stirred for 18 h at 23° C. The resulting white precipitate was filtered and washed with EtOH to yield the titled compound (0.088 g, 81%). MS (ESI/CI): mass calcd. for C13H9BrCl2N4O4, 402.9; m/z found, 403.9 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 14.22-13.94 (m, 1H), 8.98 (s, 1H), 8.40 (s, 1H), 7.74 (s, 1H), 4.30 (q, J=7.1 Hz, 2H), 1.33 (t, J=7.1 Hz, 3H).

reactant | 1-[4-bromo-5,6-dichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.27 mmol, 0.132 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2Br)Cl)Cl | C17H17BrCl2N4O4
reactant | EtOH | 2 mL | CCO | C2H6O
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Bromo-5,6-dichloro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.088 g, 81% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2Br)Cl)Cl | C13H9BrCl2N4O2
